US09315475B2
Step 1: N-(5-Fluoropyridin-3-yl)-2,2-dimethylpropanamide
Pivaloyl chloride (18.8 mL, 153 mmol) was added to a solution of 3-amino-5-fluoropyridine (13.2 g, 118 mmol) and TEA (49.2 mL, 353 mmol) in Dichloromethane (235 mL) at 0° C. The reaction was warmed to ambient temperature and stirred for 1 hour. The reaction was quenched with saturated aqueous NaHCO3 and the mixture was extracted with dichloromethane (×3). The combined organic fractions were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to afford the title compound (22.5 g, 115 mmol, 97% yield) as a light brown solid, MS (ESI): m/z=197.35 (MH+), 100% pure by LCMS.

reactant | Pivaloyl chloride | 153 mmol, 18.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-amino-5-fluoropyridine | 118 mmol, 13.2 g | NC=1C=NC=C(C1)F | C5H5FN2
solvent | Dichloromethane | 235 mL | ClCCl | CH2Cl2
product | N-(5-Fluoropyridin-3-yl)-2,2-dimethylpropanamide | 115 mmol, 22.5 g, 97% yield | FC=1C=C(C=NC1)NC(C(C)(C)C)=O | C10H13FN2O
